* C:\users\manuel\My Documents\LizardBot1_ProjectFiles\1_Hardware\SPICE\Draft1.asc
R1 N002 0 100K
V1 N002 0 5
V2 N001 0 0
M1 N001 N002 N003 N003 AO6407
D1 N002 N003 SS24
C1 N003 0 4.7µ
.model D D
.lib C:\users\manuel\Local Settings\Application Data\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\manuel\Local Settings\Application Data\LTspice\lib\cmp\standard.mos
.tran 0 10 0 0.1
.backanno
.end
