* C:\users\manuel\My Documents\LizardBot1_ProjectFiles\1_Hardware\SPICE\LizardBot1_ControlBoard_SPICE_CircuitProtection.asc
V1 N001 0 12
M1 N001 N003 N002 N002 AO4630_P
D1 N003 N002 D
R1 N003 0 1k
R2 N002 0 100k
.model D D
.lib C:\users\manuel\Local Settings\Application Data\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\manuel\Local Settings\Application Data\LTspice\lib\cmp\standard.mos
* .tran 0 1 0 0.1
.dc V1 -12 12 0.5
.backanno
.end
